US08633175B2
Step 1: [(4-Bromophenyl)oxy]acetonitrile
A mixture of p-bromophenol (2.61 g; 15.1 mmol), bromoacetonitrile (1.11 mL; 15.9 mmol), and Cs2CO3 (7.40 g; 22.7 mmol) in anhyd MeCN (25 mL) was heated at 80° C., under N2 overnight. The mixture was cooled, filtered through a pad of Celite and concentrated in vacuo. The residue was dissolved in a minimal amount of EtOAc/hexanes and filtered through a short pad of silica gel (EtOAc/hexanes eluent), affording the title compound as a colorless, waxy solid which was used without further purification. 1H NMR (400 MHz, CDCl3) δ 4.75 (s, 2H), 6.88 (m, 2H), 7.46 (m, 2H).

reactant | p-bromophenol | 15.1 mmol, 2.61 g | C1=CC(=CC=C1O)Br | C6H5BrO
reactant | bromoacetonitrile | 15.9 mmol, 1.11 mL | BrCC#N | C2H2BrN
reactant | Cs2CO3 | 22.7 mmol, 7.40 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | MeCN | 25 mL | CC#N | C2H3N
product | [(4-Bromophenyl)oxy]acetonitrile | BrC1=CC=C(C=C1)OCC#N | C8H6BrNO
